US20010027196A1
2-Amino-4-(3-methyl-furan-2-yl)-6-(pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-(3-methyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile, 2-(hydroxymethyl)pyridine and DBU in DME. ES-MS m/e (%): 308 (M+H+, 100).

reactant | 2-amino-4-(3-methyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1C)C#N)SC | C11H10N4OS
reactant | 2-(hydroxymethyl)pyridine | OCC1=NC=CC=C1 | C6H7NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(3-methyl-furan-2-yl)-6-(pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1C)C#N)OCC1=NC=CC=C1 | C16H13N5O2
